US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-5-fluoro-N4-[4-(isopropoxy)phenyl]4-pyrimidineamine and 2-methoxycarbonyl-5-aminobenzofuran were reacted to yield 5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-N4-(4-isopropoxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.04 (d, 1H, J=1.8 Hz), 7.49–7.41 (m, 4H), 7.35 (dd, 1H, J=2.4 and 8.7 Hz), 7.14 (bs, 1H), 6.90 (d, 2H, J=9.3 Hz), 6.70 (bs, 1H), 4.56 (2q, 1H, J=5.7 Hz), 3.98 (s, 3H), 1.37 (d, 6H, J=5.7 Hz); LCMS: ret. time: 25.52 min.; purity: 98%; MS (m/e): 437 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-5-fluoro-N4-[4-(isopropoxy)phenyl]4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OC(C)C)F | C13H13ClFN3O
reactant | 2-methoxycarbonyl-5-aminobenzofuran | COC(=O)C=1OC2=C(C1)C=C(C=C2)N | C10H9NO3
product | 5-fluoro-N2-(2-methoxycarbonylbenzofuran-5-yl)-N4-(4-isopropoxyphenyl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC=1C=CC2=C(C=C(O2)C(=O)OC)C1)NC1=CC=C(C=C1)OC(C)C | C23H21FN4O4
